### PR TITLE
Add Erdős Problem 395 (the reverse Littlewood–Offord problem), link the formal proof

### LINKED ISSUE #6167: Erdős Problem 395
### What is the Erdős problem?

https://www.erdosproblems.com/395

If $z_1,\ldots,z_n\in \mathbb{C}$ with $\lvert z_i\rvert=1$ then is it true that the probability that $\lvert \epsilon_1z_1+\cdots+\epsilon_nz_n\rvert \leq \sqrt{2}$, where $\epsilon_i\in \{-1,1\}$ uniformly at random, is $\gg 1/n$?

Status: proved (Lean). The reverse Littlewood–Offord problem, solved by He–Juškevičius–Narayanan–Spiro; a formal proof exists in plby/lean-proofs (`Erdos395.erdos_395`, Codex and GPT-5.6 Sol).

### [AMS categories](https://github.com/google-deepmind/formal-conjectures/labels?q=ams-)

* ams-05
* ams-60

### Choose either option
- [x] I plan on adding this Erdős problem to the repository
- [ ] This issue is up for grabs: I would like to see this Erdős problem added by somebody else

### PR DESCRIPTION
**Pull request by Konamiu**
Fixes #6167.

### What changed
Adds `FormalConjectures/ErdosProblems/395.lean` with `signedSumCount z r` (number of `ε ∈ {-1, 1}^n` with `‖∑ εᵢ zᵢ‖ ≤ r`, in the style of `erdos_498`) and:
- `erdos_395` (`research solved`, `answer(True)`): for unit `zᵢ`, `P(‖∑ εᵢ zᵢ‖ ≤ √2) ≥ c/n` (He–Juškevičius–Narayanan–Spiro [HJNS24]). Linked to plby/lean-proofs `Erdos395.erdos_395` (Codex and GPT-5.6 Sol; single Mathlib-only file).
- `erdos_395.variants.one` (`answer(False)`): Erdős's original form with `1` in place of `√2`, refuted by Carnielli–Carolino [CaCa11].
- `erdos_395.variants.sharp` (`research solved`): the bound `1/n` is best possible.

### How checked
- Rebuilt plby's file against this repo's Mathlib: `#print axioms Erdos395.erdos_395` → `[propext, Classical.choice, Quot.sound]`.
- Bridge compiled against the new statement on top of a renamed copy, same axioms (plby indexes sign patterns by `Fin n → Bool`; the bridge transports the count along the injection `Bool → {±1}`):

<details>
<summary>Bridge</summary>

```lean
namespace Bridge395

/-- Sign vectors as `±1`-valued integer vectors. -/
def toInt {n : ℕ} (ε : Fin n → Bool) : Fin n → ℤ := fun i => if ε i then 1 else -1

lemma toInt_injective {n : ℕ} : Function.Injective (toInt (n := n)) := by
  intro ε ε' h
  funext i
  have := congrFun h i
  simp only [toInt] at this
  cases hε : ε i <;> cases hε' : ε' i <;> simp [hε, hε'] at this ⊢

lemma sum_toInt {n : ℕ} (z : Fin n → ℂ) (ε : Fin n → Bool) :
    ∑ i, ((toInt ε i : ℤ) : ℂ) * z i = Erdos395Plby.signedSum z ε := by
  unfold Erdos395Plby.signedSum
  refine Finset.sum_congr rfl fun i _ => ?_
  simp only [toInt, Erdos395Plby.sign]
  split_ifs <;> simp

lemma count_eq {n : ℕ} (z : Fin n → ℂ) (r : ℝ) :
    Erdos395.signedSumCount z r =
      (Finset.univ.filter fun ε : Fin n → Bool => ‖Erdos395Plby.signedSum z ε‖ ≤ r).card := by
  classical
  unfold Erdos395.signedSumCount
  rw [← Finset.card_image_of_injective _ toInt_injective, ← Set.ncard_coe_finset]
  congr 1
  ext x
  simp only [Set.mem_ofPred_eq, Finset.coe_image, Finset.coe_filter, Finset.mem_univ, true_and,
    Set.mem_image, Set.mem_ofPred_eq]
  constructor
  · rintro ⟨hx, hsum⟩
    refine ⟨fun i => decide (x i = 1), ?_, ?_⟩
    · rw [← sum_toInt]
      convert hsum using 3 with i
      simp only [toInt]
      rcases hx i with h | h <;> simp [h]
    · funext i
      simp only [toInt]
      rcases hx i with h | h <;> simp [h]
  · rintro ⟨ε, hε, rfl⟩
    refine ⟨fun i => ?_, ?_⟩
    · simp only [toInt]
      split_ifs <;> simp
    · rw [sum_toInt]
      exact hε

theorem erdos_395_bridge : type_of% Erdos395.erdos_395 := by
  show True ↔ _
  simp only [true_iff]
  obtain ⟨c, hc, h⟩ := Erdos395Plby.erdos_395
  refine ⟨c, hc, fun n hn z hz => ?_⟩
  have := h n hn z hz
  rw [count_eq]
  unfold Erdos395Plby.uniformProbability at this
  convert this using 2
  simp

end Bridge395
```
</details>

- `lake --wfail build FormalConjectures.ErdosProblems.«395»` passes.

### CODE REVIEW

File: FormalConjectures/ErdosProblems/395.lean [hunk 1]
```diff
@@ -0,0 +1,82 @@
+/-
+Copyright 2025 The Formal Conjectures Authors.
```
Comment (mo271) [inline FormalConjectures/ErdosProblems/395.lean]:
```suggestion
Copyright 2026 The Formal Conjectures Authors.
```

**Review by mo271 — APPROVED** [review]
